US05354782
Step e: 1,19-Bis[(3,5-di-t-butyl-4-hydroxyphenyl)methyl]-1,6,14,19-tetraazanonadecane, tetrahydrochloride
Dissolve 1,19-bis[(3,5-di-t-butyl-4-hydroxyphenyl)methyl]-1,6,14,19-tetra(t-butyloxycarbonyl)-1,6,14,19-tetraazanonadecane (10.8 g, 10 mmol) in saturated methanolic hydrochloric acid (100 mL). Stir for several hours and evaporate the solvent in vacuo give the title compound.

reactant | 1,19-bis[(3,5-di-t-butyl-4-hydroxyphenyl)methyl]-1,6,14,19-tetra(t-butyloxycarbonyl)-1,6,14,19-tetraazanonadecane | 10 mmol, 10.8 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CN(CCCCN(CCCCCCCN(CCCCN(C(=O)OC(C)(C)C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C65H112N4O10
reactant | hydrochloric acid | 100 mL | Cl | ClH
product | 1,19-Bis[(3,5-di-t-butyl-4-hydroxyphenyl)methyl]-1,6,14,19-tetraazanonadecane, tetrahydrochloride | Cl.Cl.Cl.Cl.C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CNCCCCNCCCCCCCNCCCCNCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | InChI=1S/C45H80N4O2.4ClH/c1-42(2,3)36-28-34(29-37(40(36)50)43(4,5)6)32-48-26-20-18-24-46-22-16-14-13-15-17-23-47-25-19-21-27-49-33-35-30-38(44(7,8)9)41(51)39(31-35)45(10,11)12;;;;/h28-31,46-51H,13-27,32-33H2,1-12H3;4*1H
